US07105671B2
A solution of 2-(3,4-dichloro-phenyl)-3-(tetrahydro-pyran-2-yl)-propionic acid (81 mg, 0.27 mmol) in N,N-dimethylformamide (5 mL) was treated with O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (112 mg, 0.29 mmol), N,N-diisopropylethylamine (0.14 mL. 0.80 mmol), and 2-aminothiazole (40 mg, 0.40 mmol). The reaction was stirred at 25° C. for 16 h. At this time, the reaction was diluted with water (10 mL) and extracted with ethyl acetate (3×15 mL). The combined organic layers were washed with water (1×10 mL), a 1N aqueous sodium hydroxide solution (1×10 mL), a 1N aqueous hydrochloric acid solution (1×10 mL), and a saturated aqueous sodium chloride solution (1×10 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 90/10 hexanes/ethyl acetate to 60/40 hexanes/ethyl acetate) afforded 2-(3,4-dichloro-phenyl)-3-(tetrahydro-pyran-2-yl)-N-thiazol-2-yl-propionamide (35 mg, 34%) as a light yellow oil: EI-HRMS m/e calcd for C17H18Cl2N2O2S (M+) 384.0466, found 384.0468.

reactant | 2-(3,4-dichloro-phenyl)-3-(tetrahydro-pyran-2-yl)-propionic acid | 0.27 mmol, 81 mg | ClC=1C=C(C=CC1Cl)C(C(=O)O)CC1OCCCC1 | C14H16Cl2O3
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.29 mmol, 112 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.80 mmol, 0.14 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-aminothiazole | 0.40 mmol, 40 mg | NC=1SC=CN1 | C3H4N2S
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 10 mL | O | H2O
product | 2-(3,4-dichloro-phenyl)-3-(tetrahydro-pyran-2-yl)-N-thiazol-2-yl-propionamide | 35 mg, 34% | ClC=1C=C(C=CC1Cl)C(C(=O)NC=1SC=CN1)CC1OCCCC1 | C17H18Cl2N2O2S
